US04021441
In the manner given in Example 31, 8-(trifluoromethyl)-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine, potassium iodide and allylamine in tetrahydrofuran are reacted to give 8-(trifluoromethyl)-1-(allylamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine.

reactant | 8-(trifluoromethyl)-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)Cl)C1)(F)F | C18H11Cl2F3N4
reactant | potassium iodide | [I-].[K+]
reactant | allylamine | C(C=C)N | C3H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-(o-chlorophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=CC=C3)C=NN2 | C16H11ClN4
